US07368578B2
A mixture of (3-amino-1-phenyl-1H-pyrazol-4-yl)methanol (12.29 g), activated manganese dioxide (35 g) and tetrahydrofuran (200 mL) was stirred at room temperature for 16 hrs. The reaction mixture was filtered, and the filtrate was concentrated. Recrystallization of the residue from tetrahydrofuran-hexane gave 3-amino-1-phenyl-1H-pyrazole-4-carbaldehyde as pale-yellow crystals (10.02 g, yield 82%). melting point: 129-130° C.

reactant | (3-amino-1-phenyl-1H-pyrazol-4-yl)methanol | 12.29 g | NC1=NN(C=C1CO)C1=CC=CC=C1 | C10H11N3O
catalyst | manganese dioxide | 35 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-amino-1-phenyl-1H-pyrazole-4-carbaldehyde | 10.02 g, yield 82% | NC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H9N3O
